US04051145
18.9 parts of 2-(2,2,2-trifluoro-ethyl)-aniline are dissoved in 700 parts by volume of glacial acetic acid. 14 parts by volume of a 50% aqueous solution of sodium nitrite are poured at one go into this well stirred solution. The temperature of the mass rises from 20° C. 27° C. The stirring is maintained at ambient temperature for about 15 hours, after which the intermediate diazo derivative has totally disappeared. A large part of the acetic acid is eliminated by distillation in vacuum so as to give a volume of about 100 parts. Then the solution is run into 160 parts of cold water with stirring. The precipitate of 3-trifluoromethyl-indazole formed is filtered off and washed with water: crude M.p. 98° C. It is recrystallised from boiling water for analysis. White needles of M.p. 104° C. (Kofler stage) are obtained; dry weight after recrystallisation 11.4 parts.

reactant | 2-(2,2,2-trifluoro-ethyl)-aniline | FC(CC1=C(N)C=CC=C1)(F)F | C8H8F3N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-trifluoromethyl-indazole | FC(C1=NNC2=CC=CC=C12)(F)F | C8H5F3N2
